US07053060B2
To a solution of 2-[4-(N,N-dimethylamino)benzyl]phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside (00.10 g) in methanol (2 mL) and tetrahydrofuran (1 mL) was added sodium methoxide (28% methanol solution, 0.007 mL), and the mixture was stirred at room temperature for 70 minutes. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on aminopropyl silica gel (eluent: dichloromethane/methanol=8/1) to give 2-[4-(N,N-dimethylamino)benzyl]phenyl β-D-glucopyranoside (0.069 g).

reactant | 2-[4-(N,N-dimethylamino)benzyl]phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=C(C=CC=C2)CC2=CC=C(C=C2)N(C)C)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C29H35NO10
reactant | sodium methoxide | 0.007 mL | C[O-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 2-[4-(N,N-dimethylamino)benzyl]phenyl β-D-glucopyranoside | 0.069 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=C(C=CC=C1)CC1=CC=C(C=C1)N(C)C | C21H27NO6
